US05409956
Preparation of ethyl-3-[2-[(4-chlorophenyl)sulfonylaminomethyl]indan-5-yl]propionate:
387 mg (1.00 mmol) of ethyl-trans-3-[2-[(4chlorophenyl)sulfonylaminomethyl]indan-5-yl]acrylate was dissolved in 10 ml of ethanol, to which was added 24 mg (0.1 mmol)of nickel chloride·6H2O. Under ice-cooling, to this solution was added 76 mg (2.00 mmol) of sodium borohydride, followed by stirring at room temperature overnight. The ethanol was distilled off, the residue was added with 10 ml of water, and the obtained product was extracted with ethyl acetate, followed by washing and drying then condensing. The obtained crystals were recrystallized from a solvent mixture of hexane and ether to obtain 241 mg colorless crystals. Yield: 62%

reactant | ethyl-trans-3-[2-[(4chlorophenyl)sulfonylaminomethyl]indan-5-yl]acrylate | 1.00 mmol, 387 mg | C(C)OC(\C=C\C=1C=C2CC(CC2=CC1)CNS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C21H22ClNO4S
reactant | sodium borohydride | 2.00 mmol, 76 mg | [BH4-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl-3-[2-[(4-chlorophenyl)sulfonylaminomethyl]indan-5-yl]propionate | 241 mg, Yield: 62% | C(C)OC(CCC=1C=C2CC(CC2=CC1)CNS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C21H24ClNO4S
